US08937150B2
3-ethyl-3-((4-nitrophenoxy)methyl)oxetane
To a solution of 4-fluoronitrobenzene (3.76 mL, 35.4 mmol) in DMSO (35 mL) at room temperature was added cesium carbonate (7.09 mL, 89.0 mmol) followed by 3-ethyl-3-oxetanemethanol (4.48 mL, 42.5 mmol). The mixture was heated to 70° C. for 2 hours. After cooling water was added and the resulting precipitate was filtered, washed with water, and dried in a vacuum oven to provide the title compound (8.28 g, 98% yield).

reactant | 4-fluoronitrobenzene | 35.4 mmol, 3.76 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cesium carbonate | 89.0 mmol, 7.09 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-ethyl-3-oxetanemethanol | 42.5 mmol, 4.48 mL | C(C)C1(COC1)CO | C6H12O2
reactant | water | O | H2O
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
product | 3-ethyl-3-((4-nitrophenoxy)methyl)oxetane | 8.28 g, 98% yield | C(C)C1(COC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO4
